US04272437
Methyl 3-methanesulfonyloxycyclopentanecarboxylate
A solution of methanesulfonyl chloride (4.7 ml, 60 mmol) in 25 ml of CH2Cl2 was added dropwise with stirring to a solution of methyl 3-hydroxycyclopentanecarboxylate (6.5 g, 45 mmol) and triethylamine (9.0 ml, 65 mmol) in CH2Cl2 (65 ml) at 0° C. The solution was stirred at 23° C. for 24 h and then washed with water (3×50 ml). The washes were extracted with CH2Cl2 and the combined organic extracts were dried, treated with charcoal and filtered. The solvent was evaporated in vacuo to give the title compound as a yellow liquid, 9.1 g (91% yield), and as a mixture of isomers: ir (liq.) νmax : 1730 cm-1 ; 1Hmr (CDCl3) δ: 5.13 (m, 1H, H-3), 3.68 (2 Xs, 3H, CO2Me), 3.00 (s, 3H, SO3Me), 2.8 (m, 1H, H-1) and 2.4-1.7 ppm (m, 6H, CH2).

reactant | methanesulfonyl chloride | 60 mmol, 4.7 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 3-hydroxycyclopentanecarboxylate | 45 mmol, 6.5 g | OC1CC(CC1)C(=O)OC | C7H12O3
reactant | triethylamine | 65 mmol, 9.0 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 65 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-methanesulfonyloxycyclopentanecarboxylate | 91% yield | CS(=O)(=O)OC1CC(CC1)C(=O)OC | C8H14O5S
